US06344471B1
c) 4-Ethyl-3-propyl-2-(1-pyrrolidinylcarbonyl)-5(2H)-isoxazolone
At 0°C., a solution of 0.43 g (6 mmol) of pyrrolidine in 35 ml of dichloromethane are added dropwise to a solution of 0.44 g (2 mmol) of 4-ethyl-3-propyl-2-(chlorocarbonyl)-5(2H)-isoxazolone in 10 ml of dichloromethane, and the mixture is stirred at room temperature overnight. For work-up, the residue were chromatographed over silica gel using petroleum ether:ethyl acetate (4:1). MS (DCI): 253 (M+H).

reactant | pyrrolidine | 6 mmol, 0.43 g | N1CCCC1 | C4H9N
reactant | 4-ethyl-3-propyl-2-(chlorocarbonyl)-5(2H)-isoxazolone | 2 mmol, 0.44 g | C(C)C1=C(N(OC1=O)C(=O)Cl)CCC | C9H12ClNO3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Ethyl-3-propyl-2-(1-pyrrolidinylcarbonyl)-5(2H)-isoxazolone | C(C)C1=C(N(OC1=O)C(=O)N1CCCC1)CCC | C13H20N2O3
